US07906546B2
In analogy to example 81.1, 4.34 g (0.030 mol) of 3-chloro-benzenethiol in 50 mL of DMF at 0° C. were treated with 1.32 g (0.033 mol, 1.1 eq) of NaH (55% in oil) over 45 min. 4.82 g (0.032 g, 1.05 eq) of bromo-acetic acid ethyl ester were added, and stirring was continued for 2 hours. Workup and purification gave 5.9 g (91%) of (3-chloro-phenylsulfanyl)-acetic acid methyl ester as a colorless oil.

reactant | 3-chloro-benzenethiol | 0.030 mol, 4.34 g | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | NaH | 0.033 mol, 1.32 g, 1.1 eq | [H-].[Na+]
reactant | bromo-acetic acid ethyl ester | 4.82 g, 1.05 eq | C(C)OC(CBr)=O | C4H7BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (3-chloro-phenylsulfanyl)-acetic acid methyl ester | 5.9 g, 91% | COC(CSC1=CC(=CC=C1)Cl)=O | C9H9ClO2S
